US04032461
Following the general procedure in Example 1, 0.4 mole N-hydroxymethylmethacrylamide is reacted with 0.8 mole of diphenylphosphinodithioic acid, to yield N-(diphenylphosphinothioylthiomethyl) 3-(diphenylphosphinothioylthio)-2-methylpropionamide.

reactant | N-hydroxymethylmethacrylamide | 0.4 mole | OCNC(C(=C)C)=O | C5H9NO2
reactant | diphenylphosphinodithioic acid | 0.8 mole | C1(=CC=CC=C1)P(=S)(S)C1=CC=CC=C1 | C12H11PS2
product | N-(diphenylphosphinothioylthiomethyl) 3-(diphenylphosphinothioylthio)-2-methylpropionamide | C1(=CC=CC=C1)P(=S)(SCNC(C(CSP(=S)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C29H29NOP2S4
